US04407745
In 235 ml of N-methylpyrrolidone are dissolved 16.9 g (24 millimoles) of Z-Gln-Arg(Tos)-Leu-OH obtained according to the process of Example 1 and 8.7 g (26.4 millimoles) of Boc-Leu-OSu, and 2.64 ml of N-methylmorpholine is added to the solution. Then, 3 g of 10% Pd-C is added to the mixture, and the mixture is stirred for 5 hours in a current of H2. Then, N-(2-aminoethyl) piperazine is added to the mixture, the mixture is stirred for 1 hour and 100 ml of methanol is added to the mixture. The 10% Pd-C is recoved by filtration, and the mixture is concentrated under reduced pressure to distill N-methylpyrrolidone. The residue is added to a liquid mixture of 100 ml of ethyl acetate and 200 ml of a dilute aqueous solution of citric acid. The mixture is sufficiently stirred, and the ethyl acetate layer is recovered, washed with water, dried and concentrated under reduced pressure. Ether is added to the concentrate and the precipitate is recovered by filtration to obtain 15.6 g of intended Boc-Leu-Gln-Arg(Tos)-Leu-OH (the yield being 83.2%).

reactant | Z-Gln-Arg(Tos)-Leu-OH | 24 millimoles, 16.9 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C32H45N7O9S
reactant | Boc-Leu-OSu | 26.4 millimoles, 8.7 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | N-methylmorpholine | 2.64 ml | CN1CCOCC1 | C5H11NO
reactant | N-(2-aminoethyl) piperazine | NCCN1CCNCC1 | C6H15N3
solvent | N-methylpyrrolidone | 235 ml | CN1C(CCC1)=O | C5H9NO
catalyst | Pd-C | 3 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | Boc-Leu-Gln-Arg(Tos)-Leu-OH | 15.6 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C35H58N8O10S
